US08895566B2
A solution of (5R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl acetate (11.86 g, 52.33 mmol) in 2:1 THF:H2O (270 mL) was cooled to 0° C. and treated with lithium hydroxide hydrate (3.95 g, 94.2 mmol). The reaction was stirred at room temperature for 4 hours. The reaction was concentrated and diluted with water and acidified with 6N HCl to a pH of 6. The aqueous layer was extracted with EtOAc. The combined organics were washed with brine, dried MgSO4, filtered, and concentrated. The crude residue was chromatographed (Biotage 65) eluting with 30-50% EtOAc/hexane to give (5R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol (6.09 g, 63%).

reactant | (5R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl acetate | 52.33 mmol, 11.86 g | C(C)(=O)OC1C[C@H](C2=C1N=CN=C2Cl)C | C10H11ClN2O2
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium hydroxide hydrate | 94.2 mmol, 3.95 g | O.[OH-].[Li+]
solvent | H2O | 270 mL | O | H2O
product | (5R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol | 6.09 g, 63% | ClC=1C2=C(N=CN1)C(C[C@H]2C)O | C8H9ClN2O
